US06613718B2
A mixture of 2-chloropyrimidine (150 mg), 2-chloro-5-[4-chloro-5-[(difluoromethyl)-thio]-1-methyl-1H-pyrazol-3-yl]-4-fluorophenol (0.3 g) and potassium carbonate (0.18 g) in N,N-dimethylformamide and methyl ethyl ketone (1:4, 20 ml) was heated at reflux overnight. The resulting mixture was allowed to cool to room temperature and partitioned between ethyl acetate and brine. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The organic solution was concentrated in vacuo and the residue purified by column chromatography on silica gel (eluent, ethyl acetate:hexane, 2:3) to give 2-[2-chloro-5-[4-chloro-5-[(difluoromethyl)thio]-1-methyl-1H-pyrazol-3-yl]-4-fluorophenoxy]pyrimidine, (0.29 g).

reactant | 2-chloropyrimidine | 150 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 2-chloro-5-[4-chloro-5-[(difluoromethyl)-thio]-1-methyl-1H-pyrazol-3-yl]-4-fluorophenol | 0.3 g | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)SC(F)F)C)O | C11H7Cl2F3N2OS
reactant | potassium carbonate | 0.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | 2-[2-chloro-5-[4-chloro-5-[(difluoromethyl)thio]-1-methyl-1H-pyrazol-3-yl]-4-fluorophenoxy]pyrimidine | 0.29 g | ClC1=C(OC2=NC=CC=N2)C=C(C(=C1)F)C1=NN(C(=C1Cl)SC(F)F)C | C15H9Cl2F3N4OS
